US07482350B2
Step 5. Preparation of 2-(2,6-diethyl-phenyl)-4-methoxy-6-methyl-pyrimidine-5-carboxylic Acid Methyl Ester
To a solution of 2-chloro-4-methoxy-6-methyl-pyrimidine-5-carboxylic acid methyl ester (4.1 g, 19.0 mmol) in DME (100 mL) is added potassium carbonate (10.5 g, 76 mmol, 4 eq) in water (40 mL) followed by 2,6-diethylphenylboronic acid (6.77 g, 38 mmol, 2 eq). The resulting mixture is degassed by bubbling with argon for 20 min. Pd(PPh3)4 (5 mol %) is added and the resulting yellow biphasic solution is heated at 95° C. in a sealed tube with magnetic stirring for 18 h. The reaction mixture is cooled to room temperature, diluted with water (100 mL) and extracted with EtOAc (75 mL×3). The combined organic layers are washed with brine (75 mL), dried over magnesium sulfate, filtered and evaporated at reduced pressure. The resulting orange oil is purified by chromatography on silica gel (1:2 ether/hexanes) to afford the title compound as a colorless oil. 1H NMR (CDCl3) δ=7.29 (dd, 1H), 7.14 (d, 2H), 4.00 (s, 3H), 3.98 (s, 3H), 2.55 (s, 3H), 2.39 (q, 4H), 1.10 (t, 6H).

reactant | 2-chloro-4-methoxy-6-methyl-pyrimidine-5-carboxylic acid methyl ester | 19.0 mmol, 4.1 g | COC(=O)C=1C(=NC(=NC1C)Cl)OC | C8H9ClN2O3
reactant | potassium carbonate | 76 mmol, 10.5 g, 4 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-diethylphenylboronic acid | 38 mmol, 6.77 g, 2 eq | C(C)C1=C(C(=CC=C1)CC)B(O)O | C10H15BO2
solvent | DME | 100 mL | COCCOC | C4H10O2
solvent | water | 40 mL | O | H2O
product | 2-(2,6-diethyl-phenyl)-4-methoxy-6-methyl-pyrimidine-5-carboxylic Acid Methyl Ester | COC(=O)C=1C(=NC(=NC1C)C1=C(C=CC=C1CC)CC)OC | C18H22N2O3
